US09315501B2
Step 4. 4-[5-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A solution of 4-[5-(2,4-difluorophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,3-benzotriazol-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (0.077 g, 0.12 mmol) in methanol (0.34 mL) was treated with 6.0 M hydrogen chloride in water (0.102 mL, 0.610 mmol) and stirred at 20° C. for 22 h. The reaction mixture was concentrated to give a crude residue that was used immediately without further purification.

reactant | 4-[5-(2,4-difluorophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,3-benzotriazol-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.12 mmol, 0.077 g | FC1=C(OC2=CC3=C(N(N=N3)C3OCCCC3)C=C2C=2C3=C(C(N(C2)C)=O)N(C=C3)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)F | C32H27F2N5O5S
reactant | hydrogen chloride | 6.0 M | Cl | ClH
reactant | water | 0.610 mmol, 0.102 mL | O | H2O
solvent | methanol | 0.34 mL | CO | CH4O
product | 4-[5-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-6-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | FC1=C(OC2=CC3=C(NN=N3)C=C2C=2C3=C(C(N(C2)C)=O)N(C=C3)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)F | C27H19F2N5O4S
